US05422354
D. Ethyl-9-azabicyclo[3.3.1]nonane-3-carboxylate
To a 125 mL round-bottomed flask equipped with a condenser and N2 inlet were added 8.14 g (28.36 mmol) ethyl-N-benzyl-9-azabicyclo[3.3.1]nonane-3-carboxylate, 60 mL ethanol, 8.93 g (141.8 mmol) ammonium formate, and 5 g 10% palladium-on-carbon. The reaction was refluxed and fresh catalyst and ammonium formate were added until the starting material disappeared (about 4 hr, a total of 8 g catalyst). The reaction was cooled, filtered through diatomaceous earth (Celite [trademark]), and evaporated. The residue was partitioned between methylene chloride and an aqueous sodium hydroxide solution, and the organic layer separated, dried over sodium sulfate, and evaporated. The resulting oil was used directly in the next step.

reactant | ethyl-N-benzyl-9-azabicyclo[3.3.1]nonane-3-carboxylate | 28.36 mmol, 8.14 g | C(C)OC(=O)C1CC2CCCC(C1)N2CC2=CC=CC=C2 | C18H25NO2
reactant | ammonium formate | 141.8 mmol, 8.93 g | C(=O)[O-].[NH4+]
catalyst | palladium-on-carbon | 5 g | [Pd] | Pd
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | Ethyl-9-azabicyclo[3.3.1]nonane-3-carboxylate | C(C)OC(=O)C1CC2CCCC(C1)N2 | C11H19NO2
